US08247403B2
(2) 3-(2,3,4,5-tetrahydro-1,4-benzoxazepine-9-yl)-1,3-oxazolidin-2-one hydrochloride
A mixture of tert-butyl 9-(2-oxo-1,3-oxazolidin-3-yl)-2,3-dihydro-1,4-benzoxazepine-4(5H)-carboxylate (230 mg, 0.688 mmol), ethyl acetate (3 ml) and 4N hydrogen chloride-ethyl acetate solution (3 ml) was stirred at room temperature for 1 hr, and the solvent was evaporated under reduced pressure. The residue was recrystallized from a mixed solvent of methanol and ether to give the desired product (118 mg, 63.4%) as a solid.

reactant | tert-butyl 9-(2-oxo-1,3-oxazolidin-3-yl)-2,3-dihydro-1,4-benzoxazepine-4(5H)-carboxylate | 0.688 mmol, 230 mg | O=C1OCCN1C1=CC=CC=2CN(CCOC21)C(=O)OC(C)(C)C | C17H22N2O5
reactant | hydrogen chloride-ethyl acetate | 4N, 3 ml | C(C)(=O)OCC.Cl
solvent | ethyl acetate | 3 ml | C(C)(=O)OCC | C4H8O2
product | 3-(2,3,4,5-tetrahydro-1,4-benzoxazepine-9-yl)-1,3-oxazolidin-2-one hydrochloride | 118 mg, 63.4% | Cl.O1CCNCC2=C1C(=CC=C2)N2C(OCC2)=O | InChI=1S/C12H14N2O3.ClH/c15-12-14(5-7-17-12)10-3-1-2-9-8-13-4-6-16-11(9)10;/h1-3,13H,4-8H2;1H
